US07781428B2
2-(4-cyanophenyl)-3-cyclopentyl-2,3,3a,4-tetrahydrochromeno[4,3-c]pyrazole-7-carboxylic acid
The title compound was prepared from methyl 3-(cyclopentylmethylene)-4-oxochroman-7-carboxylate; Preparation 31 (286 mg, 1.0 mmol) and 4-hydrazinylbenzonitrile hydrochloride (Aldrich; 254 mg, 1.5 mmol) according to Method B and Method C. 2-(4-Cyanophenyl)-3-cyclopentyl-2,3,3a,4-tetrahydrochromeno[4,3-c]pyrazole-7-carboxylic acid was obtained (yellow solid, 142 mg, 0.367 mmol, 37% yield). The title compound was largely present as (±)-(3RS,3aSR)-2-(4-cyanophenyl)-3-cyclopentyl-2,3,3a,4-tetrahydrochromeno[4,3-c]pyrazole-7-carboxylic acid. 1H NMR (400 MHz, DMSO-d6) δ ppm 13.16 (br. s., 1H), 7.93 (d, J=7.8 Hz, 1H), 7.53-7.66 (m, 3H), 7.46 (s, 1H), 7.27 (d, J=9.0 Hz, 2H), 4.90 (dd, J=9.4, 7.0 Hz, 1H), 4.77 (dd, J=10.4, 5.7 Hz, 1H), 4.30 (dd, J=12.7, 10.7 Hz, 1H), 3.98 (ddd, J=12.9, 9.8, 5.9 Hz, 1H), 2.02-2.16 (m, 1H), 1.56-1.67 (m, 1H), 1.43-1.55 (m, 3H), 1.29-1.43 (m, 2H), 1.13-1.29 (m, 2H). ES-MS m/z 388 (M+H).

reactant | methyl 3-(cyclopentylmethylene)-4-oxochroman-7-carboxylate | C1(CCCC1)C=C1COC2=CC(=CC=C2C1=O)C(=O)OC | C17H18O4
reactant | 4-hydrazinylbenzonitrile hydrochloride | 1.5 mmol, 254 mg | Cl.N(N)C1=CC=C(C#N)C=C1
product | 2-(4-Cyanophenyl)-3-cyclopentyl-2,3,3a,4-tetrahydrochromeno[4,3-c]pyrazole-7-carboxylic acid | C(#N)C1=CC=C(C=C1)N1N=C2C(C1C1CCCC1)COC=1C=C(C=CC12)C(=O)O | C23H21N3O3
